US09102662B2
Preparation of N-[5-(3,5-Difluoro-benzyl)-1H-indazol-3-yl]-2-fluoro-5-(4-methyl-piperazin-1-ylmethyl)-benzamide [(IA), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=2-fluoro-5-(4-methyl-piperazin-1-ylmethyl)-phenyl] cpd. 120
N-[5-(3,5-Difluoro-benzyl)-1H-indazol-3-yl]-2-fluoro-5-formyl-benzamide (150 mg, 0.367 mmol) in THF (4 mL), under a nitrogen atmosphere, at room temperature was treated with N-methylpiperazine ((0.039 mL, 0.367 mmol) and then with acetic acid (0.024 mL, 0.422 mmol). After 0.5 hours sodium triacetoxyborohydride was added and the reaction was stirred over night. EtOAc (25 mL) and water (25 mL) were added, pH was adjusted to 11 with concentrated NH4OH. The organic layer was separated and the aqueous layer was extracted twice with EtOAc (2×10 mL). The combines organic extracts were dried over sodium sulphate, evaporated to dryness and purified over silica gel (Eluent: DCM: 7N NH3 in MeOH 96:4) affording 177 mg of title compound.

reactant | N-[5-(3,5-Difluoro-benzyl)-1H-indazol-3-yl]-2-fluoro-5-formyl-benzamide | 0.367 mmol, 150 mg | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C2=C(C=CC(=C2)C=O)F)=O)C=C(C1)F | C22H14F3N3O2
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | acetic acid | 0.422 mmol, 0.024 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NH4OH | [NH4+].[OH-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 25 mL | O | H2O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | N-[5-(3,5-Difluoro-benzyl)-1H-indazol-3-yl]-2-fluoro-5-(4-methyl-piperazin-1-ylmethyl)-benzamide | 177 mg | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C2=C(C=CC(=C2)CN2CCN(CC2)C)F)=O)C=C(C1)F | C27H26F3N5O
